US05053053
Preparation of 2-hydroxyethylthio-6-methyl-1,4-benzoquinone (Formula IV(B): R=CH2CH2OH, R21 =6-CH3)
Methyl-p-benzoquinone 12.2 g, 0.1 mole) and 2-mercaptoethanol (3.9 g, 0.05 mole) are mixed in absolute ethanol (70 ml) under nitrogen and with stirring. The temperature rises to 50° C. The mixture is cooled in a bath of ice-water and left to stand, with stirring, for 2 hours at ambient temperature. The solution is concentrated under vacuum and the oil obtained is chromatographed on Silica 60 (eluent: dichloromethane). According to 1H and 13C NMR, a first fraction (3 g) is a 50/50 mixture of two products: 2-hydroxyethylthio-5-methyl-1,4-benzoquinone and 2-hydroxyethylthio-6-methyl-1,4-benzoquinone. A second fraction gives the expected product:

reactant | Methyl-p-benzoquinone | 0.1 mole, 12.2 g | CC=1C(C=CC(C1)=O)=O | C7H6O2
reactant | 2-mercaptoethanol | 0.05 mole, 3.9 g | SCCO | C2H6OS
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-hydroxyethylthio-6-methyl-1,4-benzoquinone | OCCSC=1C(C(=CC(C1)=O)C)=O | C9H10O3S
